US09382222B2
Step 3: 5-(1-Methanesulfonyl-piperidin-4-ylamino)-pyridine-2-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide
A mixture of 5-bromo-pyridine-2-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide (150 mg, 388 μmol), 4-amino-1-methanesulfonylpiperidine (82.8 mg, 465 μmol), Pd2(dba)3 (36 mg, 39 μmol), XantPhos (22 mg, 39 μmol), and sodium tert-butoxide (82 mg, 853 μmol) in toluene (4 mL) was degassed with nitrogen then heated at 125° C. for 30 minutes in a microwave reactor. Saturated aqueous NaHCO3 was added and then extracted with EtOAc, washed with brine, concentrated and purified by silica gel column chromatography (0-75% EtOAc in cyclohexane) to give the title compound (103 mg). 1H NMR (400 MHz, DMSO-d6): δ 8.10 (d, 1H), 7.36 (d, 1H), 7.15 (d, 4H), 6.96 (dd, 1H), 6.81 (d, 1H), 3.50-3.52 (m, 5H), 2.89 (s, 5H), 1.99 (s, 2H), 1.43-1.47 (m, 3H), 0.83 (d, 6H). LCMS (m/z, Method A) ES+ 484.9 [M+1]+.

reactant | 5-bromo-pyridine-2-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide | 388 μmol, 150 mg | FC1=CC=C(C=C1)N(S(=O)(=O)C1=NC=C(C=C1)Br)CC(C)C | C15H16BrFN2O2S
reactant | 4-amino-1-methanesulfonylpiperidine | 465 μmol, 82.8 mg | NC1CCN(CC1)S(=O)(=O)C | C6H14N2O2S
reactant | XantPhos | 39 μmol, 22 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 853 μmol, 82 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 39 μmol, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(1-Methanesulfonyl-piperidin-4-ylamino)-pyridine-2-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide | 103 mg | FC1=CC=C(C=C1)N(S(=O)(=O)C1=NC=C(C=C1)NC1CCN(CC1)S(=O)(=O)C)CC(C)C | C21H29FN4O4S2
